US05441953
To a solution of 0.66 g of methyl (E)-6-(1,3-dihydro-4-amino-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoate in 5 ml dichloromethane was added 0.24 ml of pyridine and 0.5 g of methanesulfonic anhydride. After 1 hour the mixture was partitioned between water and dichloromethane. The organic layer was dried over MgSO4, and concentrated to give crude methyl (E)-6-(1,3-dihydro-4-methylsulfonamido-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoate. This material was purified by silica gel chromatography with 1:1 hexane-ethyl acetate. The purified ester was then treated with 0.1 g LiOH-H2O in 10 ml 1:1 methanol:H2O and the mixture refluxed for 1.5 hours. After cooling, the mixture was partitioned between dilute aqueous HCl and ethyl acetate. The organic layer was dried over MgSO4 and concentrated. The residue was purified on silica gel (eluant 80:80:4 EtoAc:hexane:acetic acid) to give 0.12 g of (E)-6-(1,3-dihydro-4-methylsulfonamido-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoic acid, mp 170°-176° C.

reactant | methyl (E)-6-(1,3-dihydro-4-amino-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoate | 0.66 g | NC1=C2C(OCC2=C(C(=C1C/C=C(/CCC(=O)OC)\C)OC)C)=O | C18H23NO5
reactant | pyridine | 0.24 ml | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonic anhydride | 0.5 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | methyl (E)-6-(1,3-dihydro-4-methylsulfonamido-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoate | CS(=O)(=O)NC1=C2C(OCC2=C(C(=C1C/C=C(/CCC(=O)OC)\C)OC)C)=O | C19H25NO7S
